US09233961B2
2-(5-bromo-2-chlorophenyl)-6-methyl-1H-imidazo[4,5-b]pyridine
Intermediate I-4 was synthesized in a similar fashion as described in the synthesis of I-2a using 5-methylpyridine-2,3-diamine and 5-bromo-2-chlorobenzoic acid. 1H NMR (400 MHz, DMSO) δ 8.18 (d, J=2.4 Hz, 1H), 8.07 (s, 1H), 7.68 (s, 1H), 7.60 (dd, J=2.2, 8.4 Hz, 1H), 7.51 (d, J=8.5 Hz, 1H), 2.39 (s, 3H). MS M/Z=322/324 (M+1).

reactant | 5-methylpyridine-2,3-diamine | CC=1C=C(C(=NC1)N)N | C6H9N3
reactant | 5-bromo-2-chlorobenzoic acid | BrC=1C=CC(=C(C(=O)O)C1)Cl | C7H4BrClO2
product | 2-(5-bromo-2-chlorophenyl)-6-methyl-1H-imidazo[4,5-b]pyridine | BrC=1C=CC(=C(C1)C=1NC=2C(=NC=C(C2)C)N1)Cl | C13H9BrClN3
